US08247587B2
2.1. Preparation of 3,5,6,7-tetrahydro-s-indacen-1(2H)-one
The mixture of 11.8 g indane (0.1 mol) and 10 ml 3-chloropropionyl chloride (0.12 mol) was added to suspension of 16 g AlCl3 (0.55 mol) in 100 ml CH2Cl2 at 0° C. After then reaction mixture was poured into ice and HCl, the organic layer was isolated; the aqueous one was extracted with CH2Cl2 (2*50 ml). The combined organic phase was washed by NaHCO3, dried over MgSO4 and evaporated. The residue was added carefully to conc. H2SO4 (100 ml), warmed to 70° C. and stirred after then 30 min at the same temperature. The mixture was cooled and poured into ice. Precipitate was filtered, washed by water and dried, to give 12.4 g of product (72%).

reactant | indane | 0.1 mol, 11.8 g | C1CCC2=CC=CC=C12 | C9H10
reactant | 3-chloropropionyl chloride | 0.12 mol, 10 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | AlCl3 | 0.55 mol, 16 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 3,5,6,7-tetrahydro-s-indacen-1(2H)-one | 12.4 g, 72% | C1(CCC2=CC=3CCCC3C=C12)=O | C12H12O
